US07754757B2
1,1-Dimethylethyl methyl bicyclo[2.2.2]octane-1,4-dicarboxylate (495 mg) was dissolved in methanol (5 mL). To this solution, a 2 mol/L aqueous sodium hydroxide solution (0.92 mL) was added and the mixture was stirred at room temperature for 8 hours and then at 50° C. for 2 hours. Methanol in the mixture was evaporated under reduced pressure. Water was added to the resulting residue and the mixture was washed with diethyl ether and was neutralized with 3 mol/L hydrochloric acid. The resulting crystals were filtered, washed with water, and dried under reduced pressure to give 1,1-dimethylethyl hydrogen bicyclo[2.2.2]octane-1,4-dicarboxylate (344 mg).

reactant | 1,1-Dimethylethyl methyl bicyclo[2.2.2]octane-1,4-dicarboxylate | 495 mg | C12(CCC(CC1)(CC2)C(=O)OC)C(=O)OC(C)(C)C | C15H24O4
reactant | sodium hydroxide | 2 mol/L, 0.92 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1,1-dimethylethyl hydrogen bicyclo[2.2.2]octane-1,4-dicarboxylate | 344 mg | C12(CCC(CC1)(CC2)C(=O)O)C(=O)OC(C)(C)C | C14H22O4
